US05859014
substituting 1-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-benzyl-1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione gave 3-benzyl-1-(3-{4-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 251°-252° C.; Anal.: Calcd. for C27H30F3ClN4O3.HCl: C, 53.55; H, 5.49; N, 9.25%; Found: C, 53.74; H, 5.26; N, 9.37%;

reactant | 1-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazine | ClC1=CC(=C(C=C1)N1CCNCC1)OCC(F)(F)F | C12H14ClF3N2O
reactant | 3-benzyl-1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C=C(C1=O)C)CCCCl)=O | C15H17ClN2O2
product | 3-benzyl-1-(3-{4-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C=C(C1=O)C)CCCN1CCN(CC1)C1=C(C=C(C=C1)Cl)OCC(F)(F)F)=O | InChI=1S/C27H30ClF3N4O3.ClH/c1-20-17-34(26(37)35(25(20)36)18-21-6-3-2-4-7-21)11-5-10-32-12-14-33(15-13-32)23-9-8-22(28)16-24(23)38-19-27(29,30)31;/h2-4,6-9,16-17H,5,10-15,18-19H2,1H3;1H
